US09193720B2
A solution of 2M isopropyl magnesium chloride (84 mL, 168 mmol) was added drop wise over 20 min to a cold (−70° C.), nitrogen purged solution of 3,5-dibromo-4-chloro-2,6-dimethylpyridine (48 g, 160 mmol) and copper(I)bromide-dimethyl sulfide complex (1.65 g, 8.02 mmol) in THF (240 mL), which was then allowed to warm to −10° C. over 60 min. The reaction mixture was transferred via cannula into a 1 L RB-flask containing isopropyl 2-chloro-2-oxoacetate (26.6 g, 176 mmol) in THF (160 mL) maintained at −60° C., and the reaction stirred an additional 2.5 h while being allowed to warm to −10° C. The reaction was quenched upon diluted with a mixture of 10% NH4Cl solution (80 mL) in ether (320 mL). The organic layer was washed with 160 mL of sat'd NaHCO3/10% NH4Cl solution (1:1), brine, and dried (Na2SO4). The crude product was charged (DCM solution) to a 330 g ISCO silica gel cartridge and gradient eluted (5-20% EtOAc/hexanes) using an Isolera chromatography station gave isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate 40.38 g (76%). 1H NMR (500 MHz, CDCl3) δ 5.28-5.21 (m, 1H), 2.77 (s, 3H), 2.47 (s, 3H), 1.40 (d, J=6.3 Hz, 6H). LCMS (M+H)=336.04.

reactant | isopropyl magnesium chloride | 168 mmol, 2M, 84 mL | C(C)(C)[Mg]Cl
reactant | 3,5-dibromo-4-chloro-2,6-dimethylpyridine | 160 mmol, 48 g | BrC=1C(=NC(=C(C1Cl)Br)C)C | C7H6Br2ClN
reactant | isopropyl 2-chloro-2-oxoacetate | 176 mmol, 26.6 g | ClC(C(=O)OC(C)C)=O | C5H7ClO3
solvent | THF | 240 mL | C1CCOC1 | C4H8O
solvent | THF | 160 mL | C1CCOC1 | C4H8O
product | isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 40.38 g, 76% | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)Cl | C12H13BrClNO3
